US05939556
(R or S)-4-(4-Cyanophenyl)-4-methyl-2,5-dioxoimidazolidine was prepared from (R or S)-2-amino-2-(4-cyanophenyl)propionamide using dimethyl carbonate analogously to the procedure indicated in EP-A-173522.

reactant | 2-amino-2-(4-cyanophenyl)propionamide | NC(C(=O)N)(C)C1=CC=C(C=C1)C#N | C10H11N3O
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
product | 4-(4-Cyanophenyl)-4-methyl-2,5-dioxoimidazolidine | C(#N)C1=CC=C(C=C1)C1(NC(NC1=O)=O)C | C11H9N3O2
